US05977101
b) tert-Butyl 4-amino-3-[[bis-(t-butoxycarbonyl)]amino]methylbenzoate
A solution of tert-butyl 3-[[bis-(t-butoxycarbonyl)]amino]methyl-4-nitrobenzoate (4.2 g, 9.3 mmol) in ethanol (150 mL) was hydrogenated at 40 psi in the presence of 10% Pd on C (0.40 g). After 30 minutes, catalyst was filtered and solvent removed to give the title compound in essentially quantitative yield: MS (ES) m/e 423 (M+H)+ ; 1H NMR (400 MHz, CDCl3) δ 7.82 (s, 1H), 7.71 (d, J=8.4 Hz, 1H), 6.56 (d, J=8.4 Hz, 1H), 4.92 (br s, 2H), 4.68 (s, 2H), 1.62 (s, 9H), 1.49 (s, 18H).

reactant | tert-butyl 3-[[bis-(t-butoxycarbonyl)]amino]methyl-4-nitrobenzoate | 9.3 mmol, 4.2 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1C=C(C(=O)OC(C)(C)C)C=CC1[N+](=O)[O-] | C22H32N2O8
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | Pd | [Pd] | Pd
product | tert-Butyl 4-amino-3-[[bis-(t-butoxycarbonyl)]amino]methylbenzoate | quantitative yield | NC1=C(C=C(C(=O)OC(C)(C)C)C=C1)CN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C22H34N2O6
